US09388153B2
Cesium carbonate (618 mg, 1.90 mmol) was added to a solution of 6-bromo-2,3-dihydro-1H-inden-1-one (200 mg, 0.948 mmol), (3-fluorophenyl)boronic acid (265 mg, 1.90 mmol) and toluene (20 mL) in a 50 mL Schlenk tube at room temperature. A nitrogen atmosphere was established by evacuating and refilling with nitrogen (3×), then tetrakis(triphenylphosphine)palladium (0) (11 mg, 0.001 mmol) was added to the reaction. The flask was sealed and heated in a 80° C. oil bath overnight. The resulting mixture was cooled to room temperature. The reaction was then diluted with ethyl acetate and filtered through celite. Ethyl acetate (30 mL) was used to wash the flask and the combined organic filtrate was concentrated in vacuo. The resulting crude residue was purified on a Teledyne-Isco combiflash machine (40 g column, hexanes→100% ethyl acetate/hexanes, gradient) to afford 174 mg (81%) of 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-one.

reactant | Cesium carbonate | 1.90 mmol, 618 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6-bromo-2,3-dihydro-1H-inden-1-one | 0.948 mmol, 200 mg | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | (3-fluorophenyl)boronic acid | 1.90 mmol, 265 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.001 mmol, 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-one | 174 mg, 81% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)=O | C15H11FO
